US07638541B2
Step 1: 4-[4-(4-Tetrazol-1-yl-phenoxymethyl)-thiazol-2-yl]-piperidine-1-carbonitrile
To a mixture of 4-[4-(4-Tetrazol-1-yl-phenoxymethyl)-thiazol-2-yl]-piperidine (1.00 g, 2.92 mmol) and potassium carbonate (1.5 g, 10.9 mmol) in chloroform (25 mL) was added cyanogen bromide (0.371 g, 3.5 mmol). The slurry was refluxed for 48 hours then stirred at room temperature for an additional 48 hours. The reaction was filtered through a pad of celite, concentrated and chromatographed on silica gel (1:1 Hexanes/EtOAc) to afford the desired compound.

reactant | 4-[4-(4-Tetrazol-1-yl-phenoxymethyl)-thiazol-2-yl]-piperidine | 2.92 mmol, 1.00 g | N1(N=NN=C1)C1=CC=C(OCC=2N=C(SC2)C2CCNCC2)C=C1 | C16H18N6OS
reactant | potassium carbonate | 10.9 mmol, 1.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | cyanogen bromide | 3.5 mmol, 0.371 g | N#CBr | CBrN
solvent | chloroform | 25 mL | C(Cl)(Cl)Cl | CHCl3
product | 4-[4-(4-Tetrazol-1-yl-phenoxymethyl)-thiazol-2-yl]-piperidine-1-carbonitrile | N1(N=NN=C1)C1=CC=C(OCC=2N=C(SC2)C2CCN(CC2)C#N)C=C1 | C17H17N7OS
